US04900751
(a) 2-[2-(2-Pyridyl)-phenyl thio]-benzoxazole
2-Mercapto benzoxazole (604 mg; 4 mmole) was reacted with 2-(2-bromophenyl)pyridine (936 mg; 4 mmole) in the presence of KOH (224 mg; 4 mmole) in N-methyl pyrrolidine (16 ml). The mixture was heated under reflux for 6 hours, worked up and flash chromatographed (silica), using ethyl acetate/petroleum ether (2/3) eluant to give the sub-title compound as a pale brown oil (52 mg; 4.3%).

reactant | 2-Mercapto benzoxazole | 4 mmole, 604 mg | SC=1OC2=C(N1)C=CC=C2 | C7H5NOS
reactant | 2-(2-bromophenyl)pyridine | 4 mmole, 936 mg | BrC1=C(C=CC=C1)C1=NC=CC=C1 | C11H8BrN
reactant | KOH | 4 mmole, 224 mg | [OH-].[K+]
solvent | N-methyl pyrrolidine | 16 ml | CN1CCCC1 | C5H11N
product | 2-[2-(2-Pyridyl)-phenyl thio]-benzoxazole | 52 mg, 4.3% | N1=C(C=CC=C1)C1=C(C=CC=C1)SC=1OC2=C(N1)C=CC=C2 | C18H12N2OS
